US08541588B2
N-(5-Chloro-1,3-thiazol-2-yl)-3-cyano-N-(2,4-dimethoxybenzyl)-4-(4-fluoro-2-iodophenoxy)benzenesulfonamide
N-(5-Chloro-1,3-thiazol-2-yl)-3-cyano-N-(2,4-dimethoxybenzyl)-4-fluorobenzenesulfonamide (Preparation 207, 410 mg, 0.876 mmol), 2-iodo-4-fluorophenol (Preparation 218, 229 mg, 0.964 mmol) and potassium carbonate (363 mg, 2.63 mmol) in dimethyl sulphoxide (20 ml) were stirred at room temperature under nitrogen for 18 hours. The reaction mixture was poured into water (50 ml) and extracted with ethyl acetate (3×30 ml). The combined organics were washed with saturated aqueous sodium chloride solution (30 ml), dried over magnesium sulfate, filtered and concentrated in vacuo to give the title compound as an off-white solid, 670 mg, quantitative yield.

reactant | N-(5-Chloro-1,3-thiazol-2-yl)-3-cyano-N-(2,4-dimethoxybenzyl)-4-fluorobenzenesulfonamide | 0.876 mmol, 410 mg | ClC1=CN=C(S1)N(S(=O)(=O)C1=CC(=C(C=C1)F)C#N)CC1=C(C=C(C=C1)OC)OC | C19H15ClFN3O4S2
reactant | 2-iodo-4-fluorophenol | 0.964 mmol, 229 mg | IC1=C(C=CC(=C1)F)O | C6H4FIO
reactant | potassium carbonate | 2.63 mmol, 363 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 ml | O | H2O
solvent | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
product | N-(5-Chloro-1,3-thiazol-2-yl)-3-cyano-N-(2,4-dimethoxybenzyl)-4-(4-fluoro-2-iodophenoxy)benzenesulfonamide | quantitative yield | ClC1=CN=C(S1)N(S(=O)(=O)C1=CC(=C(C=C1)OC1=C(C=C(C=C1)F)I)C#N)CC1=C(C=C(C=C1)OC)OC | C25H18ClFIN3O5S2
